### PR TITLE
[Merged by Bors] - chore(Algebra/BigOperators/Group/Finset/Basic): use meaningful letter names

### PR DESCRIPTION
**Pull request by YaelDillies**
All monoids are `M`, all groups are `G`, all indexing types are `ι` or `κ`. Also order according to typeclass assumptions

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks for doing this! Can you fix the build, please?

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 1]
```diff
@@ -52,40 +52,43 @@ theorem prod_insert_of_eq_one_if_not_mem [DecidableEq α] (h : a ∉ s → f a =
...
-  calc
-    ∏ x ∈ s, f x = ∏ _x ∈ s, 1 := Finset.prod_congr rfl h
-    _ = 1 := Finset.prod_const_one
+theorem prod_eq_one (h : ∀ x ∈ s, f x = 1) : ∏ x ∈ s, f x = 1 := calc
+  ∏ x ∈ s, f x = ∏ _x ∈ s, 1 := prod_congr rfl h
+  _ = 1 := prod_const_one
+
+/-- In a monoid whose only unit is `1`, a product is equal to `1` iff all factors are `1`. -/
+@[to_additive (attr := simp)
+"In a monoid whose only unit is `0`, a sum is equal to `0` iff all terms are `0`."]
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:87]:
```suggestion
"In an additive monoid whose only unit is `0`, a sum is equal to `0` iff all terms are `0`."]
```

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 2]
```diff
@@ -95,53 +98,45 @@ theorem prod_disjUnion (h) :
...
+  have := Classical.decEq ι
   rw [← prod_union (disjoint_filter_filter_neg s s p), filter_union_filter_neg_eq]
 
 @[to_additive]
-lemma prod_filter_not_mul_prod_filter (s : Finset α) (p : α → Prop) [DecidablePred p]
-    [∀ x, Decidable (¬p x)] (f : α → β) :
-    (∏ x ∈ s with ¬p x, f x) * ∏ x ∈ s with p x, f x = ∏ x ∈ s, f x := by
+lemma prod_filter_not_mul_prod_filter (s : Finset ι) (p : ι → Prop) [DecidablePred p]
+    [∀ x, Decidable (¬p x)] (f : ι → M) :
+    (∏ x ∈ s.filter fun x ↦ ¬p x, f x) * ∏ x ∈ s.filter p, f x = ∏ x ∈ s, f x := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:128]: Is this replacement of the `with` syntax intentional? I expect not.

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 3]
```diff
@@ -731,20 +679,21 @@ lemma prod_ninvolution (g : α → α) (hg₁ : ∀ a, f a * f (g a) = 1) (hg₂
...
   simp_rw [← prod_const, prod_fiberwise_of_maps_to' fun _ ↦ mem_image_of_mem _]
 
 /-- A product can be partitioned into a product of products, each equivalent under a setoid. -/
 @[to_additive "A sum can be partitioned into a sum of sums, each equivalent under a setoid."]
-theorem prod_partition (R : Setoid α) [DecidableRel R.r] :
+theorem prod_partition (R : Setoid ι) [DecidableRel R.r] :
     ∏ x ∈ s, f x = ∏ xbar ∈ s.image (Quotient.mk _), ∏ y ∈ s with ⟦y⟧ = xbar, f y := by
-  refine (Finset.prod_image' f fun x _hx => ?_).symm
+  classical
+  convert (Finset.prod_image' f fun x _hx => ?_).symm
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:691]: seems like the `refine` was better?

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 4]
```diff
@@ -609,81 +599,39 @@ This is a multiplicative discrete analogue of the fundamental theorem of calculu
...
   induction n with
   | zero => rw [Finset.prod_range_zero, base]
   | succ k hk => simp only [hk, Finset.prod_range_succ, step, mul_comm]
 
-/-- A telescoping product along `{0, ..., n - 1}` of a commutative group valued function reduces to
-the ratio of the last and first factors. -/
-@[to_additive "A telescoping sum along `{0, ..., n - 1}` of an additive commutative group valued
-function reduces to the difference of the last and first terms."]
-theorem prod_range_div {M : Type*} [CommGroup M] (f : ℕ → M) (n : ℕ) :
-    (∏ i ∈ range n, f (i + 1) / f i) = f n / f 0 := by apply prod_range_induction <;> simp
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:624]: Was this lemma, and the others in this part of the diff, moved unintentionally? Possibly as the result of a bad merge? Please fix if so. If intentional, please explain in the PR description.

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 5]
```diff
@@ -831,19 +834,10 @@ theorem prod_dvd_prod_of_dvd {S : Finset α} (g1 g2 : α → β) (h : ∀ a ∈
...
 
-@[to_additive]
-lemma prod_mul_eq_prod_mul_of_exists {s : Finset α} {f : α → β} {b₁ b₂ : β}
-    (a : α) (ha : a ∈ s) (h : f a * b₁ = f a * b₂) :
-    (∏ a ∈ s, f a) * b₁ = (∏ a ∈ s, f a) * b₂ := by
-  classical
-  rw [← insert_erase ha]
-  simp only [mem_erase, ne_eq, not_true_eq_false, false_and, not_false_eq_true, prod_insert]
-  rw [mul_assoc, mul_comm, mul_assoc, mul_comm b₁, h, ← mul_assoc, mul_comm _ (f a)]
-
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:842]: same here

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 6]
```diff
@@ -859,163 +853,156 @@ lemma prod_sdiff_ne_prod_sdiff_iff :
...
   | empty => simp
   | cons a t hi ih => simp [sum_cons, ih, or_and_right, exists_or]
 
-@[to_additive]
-theorem prod_unique_nonempty {α β : Type*} [CommMonoid β] [Unique α] (s : Finset α) (f : α → β)
-    (h : s.Nonempty) : ∏ x ∈ s, f x = f default := by
-  rw [h.eq_singleton_default, Finset.prod_singleton]
-
-section Image_Overlap
-
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:930]: and here

**Review by j-loreaux — COMMENTED** [review]
There seem to be a few places toward the end of the diff where things were moved arbitrarily. I suspect this is a consequence of a bad merge.

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:128]: No, accident indeed. Not sure ow that happened though, because that syntax replacement is several months old now

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:624]: These are intentional and already mentioned in the PR description:
> Also order according to typeclass assumptions

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:691]: Accident indeed

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:842]: This one is because I moved `prod_dvd_prod_of_dvd` down as it is not additivisable (we don't have "additive divisibility")

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:930]: These have moved earlier because they are about commutative monoids

**Comment by YaelDillies** [comment]
Thank you for the vigilant review. There was indeed a bad merge. The remaining changes should all be intentional.

**Comment by j-loreaux** [comment]
Sorry, I think I misinterpreted "Also order according to typeclass assumptions" on my first reading.

**Comment by j-loreaux** [comment]
Thanks!

bors merge
